US09102688B2
2-Benzylsulfanyl-6-methyl-pyridine (Intermediate 433)
In a similar fashion using route 38 general procedure 92, 2-chloro-6-methylpyridine (1 g, 7.8 mmol), K2CO3 (1.62 g 11.75 mmol), benzylmercaptan (1.46 g 11.8 mmol) and DMSO (7.5 ml) at 150° C. for 4 h in sealed tube gave the title compound (780 mg, 47%) which was used in the next step without further purification.

reactant | 2-chloro-6-methylpyridine | 7.8 mmol, 1 g | ClC1=NC(=CC=C1)C | C6H6ClN
reactant | K2CO3 | 11.75 mmol, 1.62 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylmercaptan | 11.8 mmol, 1.46 g | C(C1=CC=CC=C1)S | C7H8S
solvent | DMSO | 7.5 ml | CS(=O)C | C2H6OS
product | 2-Benzylsulfanyl-6-methyl-pyridine | 780 mg, 47% | C(C1=CC=CC=C1)SC1=NC(=CC=C1)C | C13H13NS
